US06100233
Preparation of 2,6-dimethyl-7-octen-2-yl 3-(β-naphthyl)-3-oxo-propionate
Lithium diisopropylamide in the amount of (100.0 mL of a 2.0 M solution, 0.201 mol) is placed into a 500 mL three-necked round-bottomed flask fitted with a magnetic stirrer, internal thermometer, argon inlet, and addition funnel. The flask is cooled to -78° C. 2,6-Dimethyl-7-octen-2-yl acetate in the amount of (18.75 g, 0.095 mol) is dissolved in THF (5 mL) and the resulting solution added to the flask over 45 min. Once addition is complete, the mixture is stirred for an additional 15 min before being treated with a solution of 2-naphthoyl chloride in the amount of (17.00 g, 0.089 mol) dissolved in THF (25 mL) over 30 min. The mixture is warmed to -20° C. and stirred at that temperature for 18 h. After warming to 0° C., the mixture is quenched with 20% HCl (55 mL). The mixture is poured into a separatory funnel containing ether (150 mL) and water (250 mL). The aqueous layer is extracted with ether (150 mL). The combined organic layers are washed with saturated NaHCO3 solution (2×100 mL), water (2×150 mL) and brine (150 mL), dried over MgSO4 and filtered. The solvent is removed by rotary evaporation to give an orange/red oil. The oil is purified by column chromatography (elution with 2% ethyl acetate dissolved in petroleum ether) to give an oil. Purity of the product is determined by thin layer chromatography and the structure confirmed by 1H and 13C NMR.

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,6-Dimethyl-7-octen-2-yl acetate | C(C)(=O)OC(C)(CCCC(C=C)C)C | C12H22O2
reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2,6-dimethyl-7-octen-2-yl 3-(β-naphthyl)-3-oxo-propionate | C1=C(C=CC2=CC=CC=C12)C(CC(=O)OC(C)(CCCC(C=C)C)C)=O | C23H28O3
